US05767293
To a solution of 6-hydroxy-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl) oxiranyl]-1-oxaspiro[2,5]octane (14.1 mg) in freshly distilled tetrahydrofuran (0.5 ml) was added sodium hydride (60% oil dispersion, 2.0 mg) in one portion in an ice bath. The suspension was stirred for half an hour at the same temperature and thereto iodomethane (71 mg) was added. After stirring for 2 hours at ambient temperature, the mixture was diluted with diethyl ether and washed with water. The organic layer was dried and evaporated to give a crude oil which was purified by column chromatography on silica gel eluted by a mixture of diethyl ether and n-hexane (1:2) to yield 5,6-dimethoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]octane (14.2 mg) as an oil.

reactant | 6-hydroxy-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl) oxiranyl]-1-oxaspiro[2,5]octane | 14.1 mg | OC1C(C(C2(CO2)CC1)C1(OC1CC=C(C)C)C)OC | C16H26O4
reactant | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
reactant | sodium hydride | 2.0 mg | [H-].[Na+]
reactant | iodomethane | 71 mg | IC | CH3I
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5,6-dimethoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]octane | 14.2 mg | COC1C(C2(CO2)CCC1OC)C1(OC1CC=C(C)C)C | C17H28O4
